US05789607
A 3-L three-necked flask equipped with a mechanical stirrer, thermometer, addition funnel, and Ar-inlet tube was charged with 91.9 g (160 mmol) of (1α,3β,17Z)-dimethyl[[1-[(triethylsilyl)oxy]pregna-5,7,17(20)-trien-3-yl]oxy](1,1,2-trimethylpropyl)silane, 62.8 mL (240 mmol) of 4-[[(1,1-dimethylethyl)dimethylsilyl]oxy-4-methyl-2-pentynal, and 480 mL of hexane. After cooling to -75° C., 480 mL (480 mmol) of a 1M dimethylaluminum chloride solution in hexane was added over 1 hr. After stirring at -75° C. for 1.5 hr., 66.9 mL (480 mmol) of triethylamine was added followed by 147 mL of ammonium hydroxide over 5 min. After 5 min, the cold-bath was removed, and the mixture was stirred for 2 hr (Gas evolved). Then, 147 g of powder Na2SO4 was added, and the stirring was continued for 30 min. The solid was removed by filtration and washed with a total of 720 mL of hexane. The combined hexane solutions were washed with 480 mL of 95% methanol. The methanol layer was extracted with 240 mL of hexane. The combined hexane solutions were dried over Na2SO4 and concentrated. The residue was then dried under high vacuum overnight to give 153 g (overweight) of crude (1α,3β)-25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-1-[(triethylsilyl)oxy]cholesta-5,7,16-trien-23-yn-22-ol as a brown viscous oil.

reactant | (1α,3β,17Z)-dimethyl[[1-[(triethylsilyl)oxy]pregna-5,7,17(20)-trien-3-yl]oxy](1,1,2-trimethylpropyl)silane | 160 mmol, 91.9 g | C[Si](C(C(C)C)(C)C)(O[C@@H]1CC2=CC=C3[C@@H]4CC/C(=C/C)/[C@]4(CC[C@@H]3[C@]2([C@H](C1)O[Si](CC)(CC)CC)C)C)C | C35H62O2Si2
reactant | [(1,1-dimethylethyl)dimethylsilyl]oxy-4-methyl-2-pentynal | CC(C)(C)[Si](OC(C#CC=O)(C)C)(C)C | C12H22O2Si
reactant | dimethylaluminum chloride | 1M | [Cl-].C[Al+]C
reactant | triethylamine | 480 mmol, 66.9 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium hydroxide | 147 mL | [OH-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 480 mL | CCCCCC | C6H14
product | (1α,3β)-25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-1-[(triethylsilyl)oxy]cholesta-5,7,16-trien-23-yn-22-ol | 153 g | CC(C)(C)[Si](OC(C)(C)C#CC([C@@H](C)C1=CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O[Si](CC)(CC)CC)O[Si](C(C(C)C)(C)C)(C)C)O)(C)C | C47H84O4Si3
